US04675332
5-Methoxy--methyl-3-(1-methylethoxy)-1H-indole-2-carboxylic acid
Prepared by the saponification procedure described in Example 7 from 41.2 g (0.15 mole) of 5-methoxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxylic acid methyl ester and 16.7 g (0.30 mole) of potassium hydroxide. The crude acid product was 18.3 g (47% yield). A sample recrystallized from aqueous 2-methoxyethanol was analytically pure, mp 110°-112° C.

reactant | 5-methoxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxylic acid methyl ester | 0.15 mole, 41.2 g | COC(=O)C=1N(C2=CC=C(C=C2C1OC(C)C)OC)C | C15H19NO4
reactant | potassium hydroxide | 0.30 mole, 16.7 g | [OH-].[K+]
product | 5-Methoxy--methyl-3-(1-methylethoxy)-1H-indole-2-carboxylic acid | 47% yield | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)O)OC(C)C | C14H17NO4
